US06521754B2
2-Methoxy-N-(4-methoxy-7-morpholin-4-yl-benzothiazol-2-yl)-acetamide
Using 4-methoxy-7-morpholin-4-yl-benzothiazol-2-yl-amine and methoxyacetyl chloride the title compound was obtained as a light yellow solid (37%), MS: m/e=338 (M+H+).

reactant | 4-methoxy-7-morpholin-4-yl-benzothiazol-2-yl-amine | COC1=CC=C(C2=C1N=C(S2)N)N2CCOCC2 | C12H15N3O2S
reactant | methoxyacetyl chloride | COCC(=O)Cl | C3H5ClO2
product | 2-Methoxy-N-(4-methoxy-7-morpholin-4-yl-benzothiazol-2-yl)-acetamide | COCC(=O)NC=1SC2=C(N1)C(=CC=C2N2CCOCC2)OC | C15H19N3O4S
